US06552022B1
4-(4-Bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic Acid tert-butyl Ester
To a solution of 4-(4-bromo-phenyl)-1,2,3,6-tetrahydro-pyridine (2.39 g) in CH2Cl2 (30 mL) was added Et3N (2 g). The solution was cooled at 0° C. and di-tert-butyl dicarbonate (2.29 g) was added. After 16 hours at room temperature, the solution was washed with water, with a saturated solution of NaHCO3 and brine. The organic phase was dried over Na2SO4, filtered and evaporated under reduced pressure and the residue was purified by flash chromatography eluting with CH2Cl2 to give the title compound (2 g) as a white solid.

reactant | 4-(4-bromo-phenyl)-1,2,3,6-tetrahydro-pyridine | 2.39 g | BrC1=CC=C(C=C1)C=1CCNCC1 | C11H12BrN
reactant | Et3N | 2 g | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic Acid tert-butyl Ester | 2 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)Br | C16H20BrNO2
